US06331538B1
3-Benzyloxy-1-ethyl-5,6,8-trifluoro-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione
A solution of 3-benzyloxy-5,6,7,8-tetrafluoro-1H-quinazoline-2,4-dione (Example W-3, 0.90 g, 2.7 mmol), in DMA (10 mL) was reacted with pyrrolidine (0.55 mL, 6.6 mmol) and heated to 60° C. for 3 hours. The mixture was then cooled and quenched with H2O and acidified with citric acid. The mixture was then extracted with ethyl acetate, dried with MgSO4, and concentrated. The residue was triturated with diethyl ether/hexanes and the solid filtered and dried (0.87 g). A portion of the solid (0.500 g, 1.28 mmol) was dissolved in DMF and reacted with ethyl iodide (1.0 mL, 12.77 mmol) and sodium hydride (0.060 g, 1.5 mmol). The mixture was stirred for 16 hours. The mixture was quenched with H2O and extracted with ethyl acetate. The organic layers were combined, dried with sodium sulfate, and concentrated. The residue was triturated with diethyl ether and filtered to yield 0.25 g of the title compound as a solid.

reactant | 3-benzyloxy-5,6,7,8-tetrafluoro-1H-quinazoline-2,4-dione | 2.7 mmol, 0.90 g | C(C1=CC=CC=C1)ON1C(NC2=C(C(=C(C(=C2C1=O)F)F)F)F)=O | C15H8F4N2O3
reactant | pyrrolidine | 6.6 mmol, 0.55 mL | N1CCCC1 | C4H9N
reactant | ethyl iodide | 12.77 mmol, 1.0 mL | C(C)I | C2H5I
reactant | sodium hydride | 1.5 mmol, 0.060 g | [H-].[Na+]
solvent | DMA | 10 mL | CC(=O)N(C)C | C4H9NO
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-Benzyloxy-1-ethyl-5,6,8-trifluoro-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione | 0.25 g | C(C1=CC=CC=C1)ON1C(N(C2=C(C(=C(C(=C2C1=O)F)F)N1CCCC1)F)CC)=O | C21H20F3N3O3
